US06914074B2
1-Chloro-8-fluoro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol
The title compound was prepared by reacting 8-fluoro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol (0.30 g, 1.05 mmol) and NCS (0.17 g, 1.26 mmol) according to method C to yield 0.21 g (62%) of a light orange solid: mp 126-128° C.; 1H NMR (DMSO-d6): δ 3.90 (3H, s), 7.25-7.31 (1H, m), 7.35 (1H, d, J=8.91 Hz), 7.64-7.67 (1H, m), 7.70-7.78 (2H, m), 7.87 (1H, dd, J=1.58 Hz, J=9.04 Hz), 10.68 (1H, s); MS (ESI) m/z3191321 (M−H)−.

reactant | 8-fluoro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol | 1.05 mmol, 0.30 g | FC=1C=C(C=C2C=CC(=CC12)O)C1=CC(=C(C=C1)OC)F | C17H12F2O2
reactant | NCS | 1.26 mmol, 0.17 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | 1-Chloro-8-fluoro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC(=C12)F)C1=CC(=C(C=C1)OC)F)O | C17H11ClF2O2
